US08487108B2
To a suspension of NaH (0.608 g, 15.2 mmol) in DMF (60 mL) at 0-5° C. was added dropwise with a solution of (3R)-tert-butyl 3-((3-chlorophenyl)(hydroxy)methyl)piperidine-1-carboxylate (4.35 g, 12.68 mmol) in DMF (30 mL). The mixture was stirred for 1 h at rt. A solution of ethyl bromoacetate (2.52 g, 15.2 mmol) in DMF (30 mL) was added dropwise and the mixture was heated to reflux for 3 h. When the reaction was complete, the mixture was poured into satd aq NH4Cl, and extracted with EtOAc (3×100 mL). The combined organic layers were dried over Na2SO4 and concentrated in vacuo to give (3R)-tert-butyl 3-((3-chlorophenyl)(2-ethoxy-2-oxoethoxy)methyl)piperidine-1-carboxylate (2.09 g, 40%). 1H NMR (400 MHz, CDCl3): 1.23-1.27 (m, 3H), 1.43-1.45 (m, 9H), 3.95-3.99 (m, 3H), 4.12-4.17 (m, 4H), 4.32-4.38 (d, 1H), 7.14-7.17 (m, 1H), 7.26-7.28 (m, 3H). MS (E/Z): 412 (M+H+).

reactant | NaH | 15.2 mmol, 0.608 g | [H-].[Na+]
reactant | (3R)-tert-butyl 3-((3-chlorophenyl)(hydroxy)methyl)piperidine-1-carboxylate | 12.68 mmol, 4.35 g | ClC=1C=C(C=CC1)C([C@H]1CN(CCC1)C(=O)OC(C)(C)C)O | C17H24ClNO3
reactant | ethyl bromoacetate | 15.2 mmol, 2.52 g | BrCC(=O)OCC | C4H7BrO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | (3R)-tert-butyl 3-((3-chlorophenyl)(2-ethoxy-2-oxoethoxy)methyl)piperidine-1-carboxylate | 2.09 g, 40% | ClC=1C=C(C=CC1)C([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCC(=O)OCC | C21H30ClNO5
